US08207344B2
1: 1-(1-Trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester
1-(Trifluoromethyl)cyclopropanecarboxylic acid (400 g, 2.6 mol) is dissolved in 3.2 L of tetrahydrofuran and cooled to 10˜20° C. Carbonyldiimidazole (462.4 g, 1.1 eq) is added in portions. The mixture is stirred at 25-30° C. for 20 min. Then piperidine-4-carboxylic acid methyl ester (445.6 g, 1.2 eq) is added dropwise at <30° C. The mixture is stirred at 25-30° C. for 18˜20 h. 3.2 L of water are added dropwise at <30° C. and the solution is concentrated to ˜1 L of volume to remove most of tetrahydrofuran. The resulting solution is extracted with dichloromethane (2×). The combined organic layers are washed with 3 volumes of 0.5 M hydrochloric acid and concentrated. 500 mL of methyl tert-butyl ether is added and the solution is concentrated. This process is run twice. The organic layer is concentrated to provide 567 g of the title compound in 95% purity.

reactant | 1-(Trifluoromethyl)cyclopropanecarboxylic acid | 2.6 mol, 400 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | Carbonyldiimidazole | 462.4 g, 1.1 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperidine-4-carboxylic acid methyl ester | 445.6 g, 1.2 eq | COC(=O)C1CCNCC1 | C7H13NO2
reactant | water | 3.2 L | O | H2O
solvent | tetrahydrofuran | 3.2 L | O1CCCC1 | C4H8O
product | 1-(1-Trifluoromethyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid ethyl ester | 567 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1(CC1)C(F)(F)F | C13H18F3NO3
